US08809371B2
Water (0.5 ml), sodium carbonate (92 mg), tert-butyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-carboxylate (203 mg), and bis(tri-tert-butylphosphine)palladium (30 mg) were added to a tetrahydrofuran (4.5 ml) solution containing 5-bromopyridin-3-amine (100 mg) in a nitrogen atmosphere, followed by stirring for 2.75 hours. Water was added to the reaction solution, followed by extraction with ethyl acetate. The organic layer was washed with saturated saline and dried over anhydrous sodium sulfate. Subsequently, the solvent was distilled away under reduced pressure, the obtained residue was purified by silica gel chromatography (chloroform:methanol=1:0 to 30:1), and a white solid of tert-butyl-4-(5-aminopyridin-3-yl)-1H-pyrazol-1-carboxylate (52 mg) was thus obtained.

reactant | sodium carbonate | 92 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | tert-butyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-carboxylate | 203 mg | CC1(OB(OC1(C)C)C=1C=NN(C1)C(=O)OC(C)(C)C)C | C14H23BN2O4
reactant | 5-bromopyridin-3-amine | 100 mg | BrC=1C=C(C=NC1)N | C5H5BrN2
catalyst | bis(tri-tert-butylphosphine)palladium | 30 mg | CC(C)([P](C(C)(C)C)([Pd][P](C(C)(C)C)(C(C)(C)C)C(C)(C)C)C(C)(C)C)C
solvent | Water | O | H2O
solvent | tetrahydrofuran | 4.5 ml | O1CCCC1 | C4H8O
solvent | Water | 0.5 ml | O | H2O
product | tert-butyl-4-(5-aminopyridin-3-yl)-1H-pyrazol-1-carboxylate | 52 mg | C(C)(C)(C)OC(=O)N1N=CC(=C1)C=1C=NC=C(C1)N | C13H16N4O2
